US08497281B2
(cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinolin-4-yl)-(1-methyl-1H-indol-3-yl)-methanone
The title compound is prepared from 1-methyl-1H-indole-3-carboxylic acid and cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate is used]. Yield: 28% of theory; LC (method 4): tR=2.05 min; Mass spectrum (ESI+): m/z=345 [M+H]+.

reactant | 1-methyl-1H-indole-3-carboxylic acid | CN1C=C(C2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | C1CCN[C@H]2CCC3=C([C@@H]12)C=CC=C3 | C13H17N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | (cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinolin-4-yl)-(1-methyl-1H-indol-3-yl)-methanone | Yield: 28% | C1CCN([C@H]2CCC3=C([C@@H]12)C=CC=C3)C(=O)C3=CN(C1=CC=CC=C31)C | C23H24N2O
